US06784171B2
A mixture of methyl 2-amino-4-(4-fluorophenyl)-6-isopropyl-pyrimidine-5-carboxylate (19.0 g), sodium tert-pentoxide (22.95 g) and dimethoxyethane (190 ml) was stirred for 30 minutes at 25° C. The stirred mixture was cooled to −10° C. and methanesulfonyl chloride (8.4 ml) was added dropwise, maintaining the temperature of the mixture at −5° C. After 20 minutes, dimethyl sulfate (8.1 ml) was added and the mixture allowed to warm to 25° C. The mixture was stirred for one hour at 25° C. and a solution of sodium tert-pentoxide (1.91 g) in dimethoxyethane (10 ml) added. The mixture was stirred for one hour at 25° C. A solution of sodium chloride (13.3 g) in water (133 ml) was added and the mixture was stirred for 10 minutes at 25° C. The mixture was allowed to settle for 15 minutes and the lower aqueous phase was separated and discarded. Water (38 ml) was added to the remaining mixture and the mixture was stirred for 30 minutes at 25° C. The mixture was then heated to obtain a complete solution. The mixture was cooled slowly to 25° C. over one hour. The mixture was cooled to 0° C., stirred for one hour, and the suspended solid collected by filtration. The solid was washed with cold (0° C.) solution of 50:50 water/dimethoxyethane (20 ml). The solid was dried under vacuum at 60° C. to give methyl 4-(4-fluorophenyl)-6isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidine-5-carboxylate (19.35 g); 1HNMR (270 MHz, CDCl3): 7.69 (m,2H), 7.14 (m,2H), 3.71, 3.60, 3.51(3× s, 9H), 3.20 (m, 1.(d,6H).

reactant | methyl 2-amino-4-(4-fluorophenyl)-6-isopropyl-pyrimidine-5-carboxylate | 19.0 g | NC1=NC(=C(C(=N1)C1=CC=C(C=C1)F)C(=O)OC)C(C)C | C15H16FN3O2
reactant | sodium tert-pentoxide | 22.95 g | CCC(C)(C)[O-].[Na+]
reactant | methanesulfonyl chloride | 8.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | dimethyl sulfate | 8.1 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium tert-pentoxide | 1.91 g | CCC(C)(C)[O-].[Na+]
reactant | sodium chloride | 13.3 g | [Cl-].[Na+]
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
solvent | water | 133 ml | O | H2O
solvent | dimethoxyethane | 190 ml | C(OC)COC | C4H10O2
product | methyl 4-(4-fluorophenyl)-6isopropyl-2-[methyl(methylsulfonyl)amino]pyrimidine-5-carboxylate | 19.35 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OC)C(C)C)N(S(=O)(=O)C)C | C17H20FN3O4S
